US07605158B2
2-Chloro-N-(5-chloropyridin-2-yl)acetamide (30.68 g) obtained in Reference Example 26(1) is dissolved in N,N-dimethylformamide (500 ml), thereto is added sodium acetate (24.55 g), and the mixture is stirred at 60° C. for 5 hours. The reaction solution is diluted with ethyl acetate, washed successively with water and saturated brine. The solution is dried over magnesium sulfate, treated with activated charcoal, and the filtrate is concentrated under reduced pressure. The resulting residue is suspended in n-hexane and crystals are collected by filtration, washed with n-hexane, and dried to give N-(5-chloropyridin-2-yl)-2-acetoxyacetamide (30.58 g). APCI-MS M/Z:229/231[M+H]+

reactant | 2-Chloro-N-(5-chloropyridin-2-yl)acetamide | 30.68 g | ClCC(=O)NC1=NC=C(C=C1)Cl | C7H6Cl2N2O
reactant | sodium acetate | 24.55 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-chloropyridin-2-yl)-2-acetoxyacetamide | 30.58 g | ClC=1C=CC(=NC1)NC(COC(C)=O)=O | C9H9ClN2O3
